US09447090B2
To a solution of 185 mg of methyl (2E,4S)-4-({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)-4-phenylbuta-2-enoate in 3.7 ml of ethyl acetate was added 20 mg of 10% palladium-carbon, followed by stirring for 8 hours under a hydrogen atmosphere. The reaction mixture was filtered over Celite and the solvent was evaporated under reduced pressure to obtain 165 mg of methyl (4S)-4-({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)-4-phenylbutanoate.

reactant | methyl (2E,4S)-4-({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)-4-phenylbuta-2-enoate | 185 mg | C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)N[C@@H](/C=C/C(=O)OC)C2=CC=CC=C2 | C27H31N3O4
solvent | ethyl acetate | 3.7 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 20 mg | [C].[Pd]
product | methyl (4S)-4-({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)-4-phenylbutanoate | 165 mg | C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)N[C@@H](CCC(=O)OC)C2=CC=CC=C2 | C27H33N3O4
